US06162942
Under an atmosphere of nitrogen, a mixture of 4 g of bis-triphenylphosphine-nickel dichloride, 3 g of triphenylphosphine and 100 ml of MEK was stirred at room temperature for 10 minutes. 1.2 g of activated zinc powder were then added, and the reaction mixture was stirred at 70° C. for 30 minutes. Following this, the mixture was allowed to cool to 25° C., and a solution of 92 g of 4-chloro-trifluoromethanesulphonylbenzene in 50 ml of MEK was added dropwise. The mixture was stirred for 10 minutes, 18.5 g of sodium cyanide were then added and the reaction mixture was stirred at from 65 to 70° C. for 20 h. The conversion after this period of time was greater than 98% (GC). After cooling to RT, the mixture was filtered, the solid filter residue was washed 2× with 30 ml of MEK each time and the combined organic phases were concentrated under reduced pressure. Fractionation under reduced pressure via a 30 cm Vigreux column and heated distillation bridge gave 76 g (85% of theory) of 4-trifluoromethanesulphonylbenzonitrile as a white solid (boiling point at 0.2 mbar: 115° C.). A formation of coupling products was not observed.

reactant | 4-chloro-trifluoromethanesulphonylbenzene | 92 g | ClC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C7H4ClF3O2S
reactant | sodium cyanide | 18.5 g | [C-]#N.[Na+]
solvent | Methyl Ethyl Ketone | 50 ml | C(C)C(=O)C | C4H8O
catalyst | zinc | 1.2 g | [Zn] | Zn
catalyst | triphenylphosphine | 3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Methyl Ethyl Ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 4-trifluoromethanesulphonylbenzonitrile | 76 g, 85% | FC(S(=O)(=O)C1=CC=C(C#N)C=C1)(F)F | C8H4F3NO2S
